US07141586B2
Oxone™ (245 mg, 0.40 mmol) was added to a solution of 5-fluoro-N-[(1S,2R)-2-hydroxycyclohexyl]-2-[3-(methylsulfanyl)phenoxy]nicotinamide (50 mg, 0.13 mmol) in a mixture of isopropanol (2 ml), tetrahydrofurann (1 ml) and water (1 ml) at 0° C. The mixture was warmed to ambient temperature and stirred for 18 h then partitioned between water (2 ml) and dichloromethane (10 ml) using a Chemelute™ cartridge. The organic phase was evaporated and the residue purified by flash column chromatography using dichloromethane:methanol (98:2) as eluant to give 5-fluoro-N-[(1S,2R)-2-hydroxycyclohexyl]-2-[3-(methylsulfonyl)phenoxy]nicotinamide (39 mg) as a colourless glass.

reactant | Oxone | OOS(=O)[O-].[K+]
reactant | 5-fluoro-N-[(1S,2R)-2-hydroxycyclohexyl]-2-[3-(methylsulfanyl)phenoxy]nicotinamide | 0.13 mmol, 50 mg | FC=1C=NC(=C(C(=O)N[C@@H]2[C@@H](CCCC2)O)C1)OC1=CC(=CC=C1)SC | C19H21FN2O3S
reactant | water | 1 ml | O | H2O
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 5-fluoro-N-[(1S,2R)-2-hydroxycyclohexyl]-2-[3-(methylsulfonyl)phenoxy]nicotinamide | 39 mg | FC=1C=NC(=C(C(=O)N[C@@H]2[C@@H](CCCC2)O)C1)OC1=CC(=CC=C1)S(=O)(=O)C | C19H21FN2O5S
